US05569768
2-[1-[5-(2-Cyanophenyl)-1H-benzimidazol-1-yl]hexyl]-1-trityl-1H-imidazole (3.44 moles, 2.1 g) was dissolved in 200 ml ether, 240 ml formic acid, and 24 drops of water. The solution was stirred for 1 hour at room temperature and concentrated. Ethyl acetate was added. The ethyl acetate solution was washed with water, dried over sodium sulfate, filtered and concentrated. The residue was dissolved in 50 ml DMF. Sodium hydride (3.8 mmoles, 152 mg of 60% in mineral oil) was added. The reaction was stirred at room temperature for 2 hours. Ethyl bromoacetate (3.8 moles, 0.634 g.) in 50 ml DMF was added. The reaction was stirred for 1 hour, poured into ice water, and extracted with ethyl acetate. The organic solution was washed with brine, dried over sodium sulfate, and concentrated. The intermediate was purified by chromatography over silica gel eluted with ethyl acetate to give 830 mg of ethyl 2-[1-[5-(2-cyanophenyl)1H-benzimidazol-1-yl]hexyl]-1H-imidazole-1-acetate. (MS)

reactant | 2-[1-[5-(2-Cyanophenyl)-1H-benzimidazol-1-yl]hexyl]-1-trityl-1H-imidazole | 3.44 moles, 2.1 g | C(#N)C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(CCCCC)C=2N(C=CN2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C42H37N5
reactant | formic acid | 240 ml | C(=O)O | CH2O2
reactant | Sodium hydride | 3.8 mmoles, 152 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 3.8 moles, 0.634 g | BrCC(=O)OCC | C4H7BrO2
solvent | ether | 200 ml | CCOCC | C4H10O
catalyst | water | 24 drops | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | ethyl 2-[1-[5-(2-cyanophenyl)1H-benzimidazol-1-yl]hexyl]-1H-imidazole-1-acetate | 830 mg | C(#N)C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(CCCCC)C=2N(C=CN2)CC(=O)OCC)C=C1 | C27H29N5O2
